US07544835B2
Dimethyl 2-(3-{2-[(4-toluidinocarbonyl)oxy]-ethyl}benzyl)malonate
Using dimethyl 2-[3-(2-hydroxyethyl)benzyl]malonate and p-tolylisocyanate, the title compound was obtained in the same manner as described in Example 192b).

reactant | dimethyl 2-[3-(2-hydroxyethyl)benzyl]malonate | OCCC=1C=C(CC(C(=O)OC)C(=O)OC)C=CC1 | C14H18O5
reactant | p-tolylisocyanate | C1(=CC=C(C=C1)N=C=O)C | C8H7NO
product | Dimethyl 2-(3-{2-[(4-toluidinocarbonyl)oxy]-ethyl}benzyl)malonate | C1(=CC=C(C=C1)NC(=O)OCCC=1C=C(CC(C(=O)OC)C(=O)OC)C=CC1)C | C22H25NO6
